US06673799B1
(2R,5S)-N-(2-Acetyl-4-pyridyl)-4-(4-cyano-3-trifluoromethylphenyl)-2,5-dimethylpiperazine-1-carboxamide
While stirring with ice-cooling, 12.5 ml of trifluoroacetic acid was added to 12.5 ml of chloroform solution containing 1.41 g of 2-acetyl-4-pyridinylcarbamic acid t-butyl ester. The mixture was immediately warmed up to room temperature and stirred for 2 hours and 40 minutes. The solvent was evaporated under reduced pressure to obtain a crude amine. This compound was dissolved in 25 ml of pyridine, and the solution was mixed with 0.83 ml of phenyl chloroformate while stirring with ice-cooling and then immediately warmed up to room temperature. After 8 hours and 30 minutes, this was mixed with 10 ml of pyridine solution containing 1.4 g of (2S,5R)-4-(2,5-dimethylpiperazin-1-yl)-2-trifluoromethylbenzonitrile and heated under reflux for 1 hour. The reaction mixture cooled to room temperature was mixed with water and extracted with chloroform. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by a silica gel column chromatography to obtain 1.03 g of the title compound from methanol-chloroform (1:99, v/v) eluate.

reactant | trifluoroacetic acid | 12.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-acetyl-4-pyridinylcarbamic acid t-butyl ester | 1.41 g | C(C)(C)(C)OC(NC1=CC(=NC=C1)C(C)=O)=O | C12H16N2O3
reactant | phenyl chloroformate | 0.83 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | (2S,5R)-4-(2,5-dimethylpiperazin-1-yl)-2-trifluoromethylbenzonitrile | 1.4 g | C[C@@H]1N(C[C@H](NC1)C)C1=CC(=C(C#N)C=C1)C(F)(F)F | C14H16F3N3
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
solvent | chloroform | 12.5 ml | C(Cl)(Cl)Cl | CHCl3
product | (2R,5S)-N-(2-Acetyl-4-pyridyl)-4-(4-cyano-3-trifluoromethylphenyl)-2,5-dimethylpiperazine-1-carboxamide | 1.03 g | C(C)(=O)C1=NC=CC(=C1)NC(=O)N1[C@@H](CN([C@H](C1)C)C1=CC(=C(C=C1)C#N)C(F)(F)F)C | C22H22F3N5O2
